US09278950B2
Step 5. tert-Butyl [(3S)-1-(5-amino-2,3-dihydrofuro[2,3-b]pyridin-4-yl)piperidin-3-yl]carbamate
To a solution of tert-butyl [(3S)-1-(5-nitro-2,3-dihydrofuro[2,3-b]pyridin-4-yl)piperidin-3-yl]carbamate (411.2 mg, 1.128 mmol) in MeOH (5.00 mL) under a nitrogen atmosphere was added 10% Pd on carbon (108.7 mg, 0.1021 mmol). The reaction mixture was hydrogenated at 1 atm. for 14 h. The mixture was then filtered through a pad of diatomaceous earth (eluted with MeOH). The filtrate was concentrated under reduced pressure to give the sub-title compound as an off-white solid (387.9 mg) which was used directly in the next step without further purification. LCMS calc. for C17H27N4O3 (M+H)+: m/z=335.2. found 335.2.

reactant | tert-butyl [(3S)-1-(5-nitro-2,3-dihydrofuro[2,3-b]pyridin-4-yl)piperidin-3-yl]carbamate | 1.128 mmol, 411.2 mg | [N+](=O)([O-])C=1C(=C2C(=NC1)OCC2)N2C[C@H](CCC2)NC(OC(C)(C)C)=O | C17H24N4O5
solvent | MeOH | 5.00 mL | CO | CH4O
catalyst | Pd on carbon | 0.1021 mmol, 108.7 mg | [Pd] | Pd
product | tert-Butyl [(3S)-1-(5-amino-2,3-dihydrofuro[2,3-b]pyridin-4-yl)piperidin-3-yl]carbamate | 387.9 mg | NC=1C(=C2C(=NC1)OCC2)N2C[C@H](CCC2)NC(OC(C)(C)C)=O | C17H26N4O3
